US07223794B2
a) (S)-α-(Azidomethyl)benzenemethanol
(S)-α-(Chloromethyl)benzenemethanol (2.38 g) in dry DMSO (50 ml) was treated with sodium azide (1.48 g) with stirring then heated at 60° C. for 24 h. More sodium azide (74 mg) was added and heating continued at 80° C. for a further 24 h. The reaction mixture was cooled, poured into water and extracted into ethyl acetate, which was washed with water (3×) then brine and dried (MgSO4). The solvent was evaporated to give the sub-title compound (2.40 g) as a yellow oil.

reactant | (S)-α-(Chloromethyl)benzenemethanol | 2.38 g | ClC[C@@H](O)C1=CC=CC=C1 | C8H9ClO
reactant | sodium azide | 1.48 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
catalyst | sodium azide | 74 mg | [N-]=[N+]=[N-].[Na+]
product | (S)-α-(Azidomethyl)benzenemethanol | 2.40 g | N(=[N+]=[N-])C[C@@H](O)C1=CC=CC=C1 | C8H9N3O
